US05401736
Synthesis of (S)-5-diphenylacetyl-1-(3-methyl-4-nitrophenyl)methyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylic acid methyl ester (V-2)
Acetonitrile (16 ml) was added to a mixture of N,N'-dicyclohexylcarbodiimide (DCCI) (2.1080 g, 0.01022 mol), 1-hydroxybenzotriazole (HBTA) (1.3806 g, 0.01022 mol), and diphenylacetic acid (2.1685 g, 0.01022 mol), followed by stirring at room temperature for 20 minutes. A solution of (S)-1-(3-methyl-4-nitrophenyl)methyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylic acid methyl ester (VI-2) (2.7000 g, 0.00817 mol) in acetonitrile (14 ml) was added to the suspension, and the mixture was stirred at room temperature for 21 hours. An insoluble portion in the reaction mixture was filtered out and washed with acetonitrile, and then the filtrate and washings were joined and concentrated. The residue was dissolved in methylene chloride (40 ml), washed with a 10% sodium carbonate solution and a saturated brine, then dried over sodium sulfate and concentrated to obtain an orange oily material (4.5203 g). This crude oily material was purified by silica gel column chromatography (Kieselgel 60, 270 g, chloroform/methanol=60/11) to obtain the objective compound (V-2) (2.8250 g; yield: 65.9%) as colorless crystals (top: 174.5°-177° C.).

reactant | N,N'-dicyclohexylcarbodiimide | 0.01022 mol, 2.1080 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 0.01022 mol, 1.3806 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diphenylacetic acid | 0.01022 mol, 2.1685 g | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | (S)-1-(3-methyl-4-nitrophenyl)methyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylic acid methyl ester | 0.00817 mol, 2.7000 g | COC(=O)[C@@H]1CC2=C(CN1)N=CN2CC2=CC(=C(C=C2)[N+](=O)[O-])C | C16H18N4O4
solvent | acetonitrile | 14 ml | C(C)#N | C2H3N
solvent | Acetonitrile | 16 ml | C(C)#N | C2H3N
product | (S)-5-diphenylacetyl-1-(3-methyl-4-nitrophenyl)methyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylic acid methyl ester | 4.5203 g, yield: 65.9% | COC(=O)[C@@H]1CC2=C(CN1C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)N=CN2CC2=CC(=C(C=C2)[N+](=O)[O-])C | C30H28N4O5
